US20010018525A1
To a solution of 2-methoxy-4[5′-(8-phenyl-octylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′yloxymethyl]-benzoic acid methyl ester (0.418 g, 0.53 mmol, 1 eq) in CH2Cl2 (9 mL) cooled to 0° C. was added BBr3 (1M in CH2Cl2) (0.800 mL, 0.53 mmol, 1 eq). The reaction was stirred at 0° C. for 40 min, poured over ice and extracted with EtOAc. The combined organics were washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (20 to 30% EtOAc:hexane+1% Formic Acid) to afford 2-hydroxy-4-[ 5′-(8-phenyl-octylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′yloxymethyl]-benzoic acid methyl ester (see next example) and the title compound (0.201 g, 50%) as a white foam. 1H NMR (DMSO-d6) δ13.60 (bs, 1H); 11.10 (bs, 1H); 8.59 (bt, 1H); 7.96-7.92 (m, 6H); 7.78-7.66 (m, 4H); 7.48 (d, 1H); 7.26-7.10 (m, 5H); 6.26 (d, 1H); 6.21 (dd, 1H); 4.18 (dd, 2H); 3.24 (dd, 2H); 2.52 (t, 2H); 1.52 (m, 4H); 1.27 (m, 8H); IR (film) 3300, 2950, 2800, 1680, 1630, 1590, 1540, 1440, 1320, 1260, 1205, 1160, 1120, 1095, 1080, 990 cm−; mass spectrum [(−)ESI], m/z 776 (M−H)−; Anal. Calcd. for C43H39F6NO5: C, 67.62; H, 5.15; N, 1.83, Found: C, 67.21; H, 5.11; N, 1.71.

reactant | 2-methoxy-4[5′-(8-phenyl-octylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′yloxymethyl]-benzoic acid methyl ester | 0.53 mmol, 0.418 g, 1 eq | COC(C1=C(C=C(C=C1)COC1=C(C=C(C=C1C1=CC(=CC=C1)C(F)(F)F)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)OC)=O | C45H43F6NO5
reactant | BBr3 | 0.53 mmol, 1M, 0.800 mL, 1 eq | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-4-[ 5′-(8-phenyl-octylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′yloxymethyl]-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)COC1=C(C=C(C=C1C1=CC(=CC=C1)C(F)(F)F)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)O)=O | C44H41F6NO5
